US08119676B2
tert-Butyl (6-chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)acetate (XIg)
A solution of 1.8 g (4.70 mmol) of tert-butyl 3-tert-butoxycarbonylmethyl-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIIg) in 100 ml of 2% trifluoroacetic acid in dichloromethane was stirred at room temperature for 16 h. The solvent was removed in vacuo and the residue was dried in vacuo. Yield: 1.32 g (100%) of colorless solid

reactant | tert-butyl 3-tert-butoxycarbonylmethyl-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | 4.70 mmol, 1.8 g | C(C)(C)(C)OC(=O)CN1C(N(C2=C1C=C(C=C2)Cl)C(=O)OC(C)(C)C)=O | C18H23ClN2O5
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl (6-chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)acetate | ClC=1C=CC2=C(N(C(N2)=O)CC(=O)OC(C)(C)C)C1 | C13H15ClN2O3
